US06387935B1
At room temperature, 0.49 g of 2-bromo-5-chlorindan-1-on and 0.45 g of 2-(4-tert-butylphenoxy)-thioacetamide were dissolved in 10 ml of dry acetone, and the mixture was stirred at room temperature for 12 h. The precipitated hydrobromide was filtered off with suction and washed with acetone. The residue was suspended in a little ethyl acetate and treated with saturated sodium bicarbonate solution. The organic phase was separated off, dried over magnesium sulfate, filtered and concentrated under reduced pressure. This synthesis yielded 2-(4-tert-butylphenoxymethyl)-6-chloro-8,8a-dihydroindeno [1,2-d]thiazol-3a-ol having a melting point of 122-124° C.

reactant | 2-bromo-5-chlorindan-1-on | 0.49 g | BrC1C(C2=CC=C(C=C2C1)Cl)=O | C9H6BrClO
reactant | 2-(4-tert-butylphenoxy)-thioacetamide | 0.45 g | C(C)(C)(C)C1=CC=C(OCC(=S)N)C=C1 | C12H17NOS
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-(4-tert-butylphenoxymethyl)-6-chloro-8,8a-dihydroindeno [1,2-d]thiazol-3a-ol | C(C)(C)(C)C1=CC=C(OCC=2SC3C(N2)(C=2C=CC(=CC2C3)Cl)O)C=C1 | C21H22ClNO2S
